US09359359B2
1-(2-bromoethyl)-7-(4-chlorobenzyl)-3-methyl-8-(3-(trifluoromethoxy)phenoxy)-1H-purine-2,6(3H,7H)-dione (120 mg, 0.0.210 mmol) was dissolved in aqueous dimethylamine (3 mL), then the mixture was heated to 100° C. in a sealed tube with stirring overnight. The mixture was diluted with ethyl acetate and water, and the phases were separated. The organic phase was washed with brine, dried over sodium sulfate, filtered and concentrated to give crude product, which was purified by preparative HPLC and lyophilized to give 7-(4-chlorobenzyl)-1-(2-(dimethylamino)ethyl)-3-methyl-8-(3-(trifluoromethoxy)phenoxy)-1H-purine-2,6(3H,7H)-dione hydrochloride (29 mg, 25.6% yield) as white solid. 1H-NMR (DMSO-d6) δ 9.67(s, 1H), 7.64-7.60(t, 1H), 7.47-7.41(m, 6H), 7.36-7.34(m, 1H), 5.46(s, 2H), 4.23-4.21(m, 2H), 3.37-3.34(m, 2H), 3.31(s, 3H), 2.87-2.86(d, 6H). LCMS retention time 2.174 min; LCMS MH+ 538.

reactant | 1-(2-bromoethyl)-7-(4-chlorobenzyl)-3-methyl-8-(3-(trifluoromethoxy)phenoxy)-1H-purine-2,6(3H,7H)-dione | 120 mg | BrCCN1C(N(C=2N=C(N(C2C1=O)CC1=CC=C(C=C1)Cl)OC1=CC(=CC=C1)OC(F)(F)F)C)=O | C22H17BrClF3N4O4
reactant | dimethylamine | 3 mL | CNC | C2H7N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 7-(4-chlorobenzyl)-1-(2-(dimethylamino)ethyl)-3-methyl-8-(3-(trifluoromethoxy)phenoxy)-1H-purine-2,6(3H,7H)-dione hydrochloride | 29 mg, 25.6% yield | Cl.ClC1=CC=C(CN2C(=NC=3N(C(N(C(C23)=O)CCN(C)C)=O)C)OC2=CC(=CC=C2)OC(F)(F)F)C=C1 | InChI=1S/C24H23ClF3N5O4.ClH/c1-30(2)11-12-32-21(34)19-20(31(3)23(32)35)29-22(33(19)14-15-7-9-16(25)10-8-15)36-17-5-4-6-18(13-17)37-24(26,27)28;/h4-10,13H,11-12,14H2,1-3H3;1H
